US04723002
A solution of 2-(hydroxymethyl)-5-(phenylmethoxy)-4H-pyran-4-one (10.5 g, 45.3 mmol) in benzylamine (40 ml) and water (60 ml) was refluxed for four hours and then stirred overnight at room temperature. The resulting precipitate was collected and washed thoroughly with water to give 9.17 g (28.6 mmol) of 2-(hydroxymethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)pyridinone (melting point 146°-147° C.) upon drying. The supernatant was diluted with water to a total volume of 450 ml, and after standing for one hour at room temperature, the resulting precipitate was collected to yield 2.47 g (7.69 mmol) of additional 2-(hydroxymethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone upon drying.

reactant | 2-(hydroxymethyl)-5-(phenylmethoxy)-4H-pyran-4-one | 45.3 mmol, 10.5 g | OCC=1OC=C(C(C1)=O)OCC1=CC=CC=C1 | C13H12O4
reactant | benzylamine | 40 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 60 ml | O | H2O
product | 2-(hydroxymethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)pyridinone | 28.6 mmol, 9.17 g | OCC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H19NO3
